US07786104B2
N-[6-(3-Hydroxyazetidin-1-yl)pyridin-3-yl]-1-(3-fluorobenzyl)-5-trifluoromethyl-1H-indole-2-carboxamide
The process is carried out according to the method described in example 2, using 5-trifluoromethyl-1-(3-fluorobenzyl)-1H-indole-2-carboxylic acid (WO 2006/072736) and 2-(3-hydroxyazetidin-1-yl)-5-aminopyridine, prepared in step 10.2 of example 10 (Compound Ve).

reactant | 5-trifluoromethyl-1-(3-fluorobenzyl)-1H-indole-2-carboxylic acid | FC(C=1C=C2C=C(N(C2=CC1)CC1=CC(=CC=C1)F)C(=O)O)(F)F | C17H11F4NO2
reactant | 2-(3-hydroxyazetidin-1-yl)-5-aminopyridine | OC1CN(C1)C1=NC=C(C=C1)N | C8H11N3O
product | N-[6-(3-Hydroxyazetidin-1-yl)pyridin-3-yl]-1-(3-fluorobenzyl)-5-trifluoromethyl-1H-indole-2-carboxamide | OC1CN(C1)C1=CC=C(C=N1)NC(=O)C=1N(C2=CC=C(C=C2C1)C(F)(F)F)CC1=CC(=CC=C1)F | C25H20F4N4O2
